US04297129
2-Hydroxymethyl-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine (1.00 g), p-methylbenzoic acid (0.95 g) and N,N-dicyclohexylcarbodiimide (2.90 g) are dissolved in pyridine, and the mixture is allowed to stand overnight. The reaction mixture is then evaporated to dryness to give a residue, which is extracted with chloroform. The chloroform extract is condensed to give an oil, which is purified by thin layer chromatography with silica gel and recrystallized from a mixture of ethanol/n-hexane. 2-(p-Methylbenzoyloxymethyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine (Compound No. 42) is thus obtained. Yield, 1.01 g (56%). M.P. 139.3° C.

reactant | 2-Hydroxymethyl-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine | 1.00 g | OCN1N=CC(NC1=O)=O | C4H5N3O3
reactant | p-methylbenzoic acid | 0.95 g | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(p-Methylbenzoyloxymethyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine | CC1=CC=C(C(=O)OCN2N=CC(NC2=O)=O)C=C1 | C12H11N3O4
